US08304438B2
(a) 3-(4-Methyl-2-phenyl-thiazol-5-yl)-acrylic Acid
A mixture of 300 mg (1.47 mmol) of 4-methyl-2-phenyl-thiazole-5-carbaldehyde, 169 mg (1.62 mmol) of malonic acid and 880 mg (10.33 mmol) of piperidine in 10 ml of pyridine was stirred at 90° C. for 5 h and at 100° C. for 6 h. After concentration, the residue was treated with a sodium hydrogencarbonate solution and ethyl acetate. The aqueous phase was separated and acidified. The precipitated product was filtered off with suction and dried. Yield: 260 mg.

reactant | 4-methyl-2-phenyl-thiazole-5-carbaldehyde | 1.47 mmol, 300 mg | CC=1N=C(SC1C=O)C1=CC=CC=C1 | C11H9NOS
reactant | malonic acid | 1.62 mmol, 169 mg | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 10.33 mmol, 880 mg | N1CCCCC1 | C5H11N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Methyl-2-phenyl-thiazol-5-yl)-acrylic Acid | CC=1N=C(SC1C=CC(=O)O)C1=CC=CC=C1 | C13H11NO2S
